US07148215B2
4-(4-Methylpyridine-3-carbonyl)piperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester
A stirred suspension of 6-methylnicotinic acid (29 g) in dry dichloromethane (400 mL) was treated with piperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (57.58 g, prepared according to the procedure described in WO 96/31478 Step B page 94), then with 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (40.7 g). After stirring at room temperature for a further 1 hour the reaction mixture was treated with 4-dimethylaminopyridine (3.00 g) and stirring continued overnight. The reaction mixture was then further treated with dimethylaminopyridine (1.00 g). After stirring for a further 7 hours the reaction mixture was washed with a saturated aqueous solution of sodium hydrogen carbonate and then water. The organic phase was dried over magnesium sulfate and evaporated. The residue was subjected to column chromatography on silica eluting with a mixture of ethyl acetate and pentane (2:1, v/v) to give the title compound (54.0 g) as a yellow oil, Rf 0.31 (ethyl acetate).

reactant | 6-methylnicotinic acid | 29 g | CC1=NC=C(C(=O)O)C=C1 | C7H7NO2
reactant | piperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | C(C)OC(=O)C1CN(CCN1)C(=O)OC(C)(C)C | C12H22N2O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 40.7 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 3.00 g | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | dimethylaminopyridine | 1.00 g | CN(C)C1=NC=CC=C1 | C7H10N2
product | 4-(4-Methylpyridine-3-carbonyl)piperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 54.0 g | C(C)OC(=O)C1CN(CCN1C(=O)C=1C=NC=CC1C)C(=O)OC(C)(C)C | C19H27N3O5
